US08293798B2
Methyl 4-({[(2-chloro-5-{[(3-chlorophenyl)methyl]oxy}phenyl)carbonyl]amino}methyl)benzoate
A solution of 2-chloro-5-{[(3-chlorophenyl)methyl]oxy}benzoic acid (250 mg, 0.84 mmol) and N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (250 mg, 1.3 mmol) in DCM (3 ml) was stirred at room temperature for 30 min. A solution of methyl 4-(aminomethyl)benzoate hydrochloride (262 mg, 1.3 mmol) in DCM (2 ml) was added followed by N-ethyl-N-(1-methylethyl)-2-propanamine (220 ul, 1.3 mmol). The mixture was heated at 40° C. overnight. The mixture was then diluted with methanol and purified by SCX cartridge eluting with methanol. The fractions were combined and evaporated to give the title compound as a white solid. MS (ES+) m/z 444 [M+H]− (C23H1935Cl2NO4). 1H-NMR (400 MHz, d6-DMSO) δ 3.85 (3H, s), 4.51 (2H, d, J 4), 5.17 (2H, s), 7.12 (2H, d, J 8), 7.42-7.49 (7H, m), 7.95 (2H, d, J 8), 9.06 (1H, s).

reactant | 2-chloro-5-{[(3-chlorophenyl)methyl]oxy}benzoic acid | 0.84 mmol, 250 mg | ClC1=C(C(=O)O)C=C(C=C1)OCC1=CC(=CC=C1)Cl | C14H10Cl2O3
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 1.3 mmol, 250 mg | Cl.CN(CCCN=C=NCC)C
reactant | methyl 4-(aminomethyl)benzoate hydrochloride | 1.3 mmol, 262 mg | Cl.NCC1=CC=C(C(=O)OC)C=C1
reactant | N-ethyl-N-(1-methylethyl)-2-propanamine | 1.3 mmol, 220 ul | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | Methyl 4-({[(2-chloro-5-{[(3-chlorophenyl)methyl]oxy}phenyl)carbonyl]amino}methyl)benzoate | ClC1=C(C=C(C=C1)OCC1=CC(=CC=C1)Cl)C(=O)NCC1=CC=C(C(=O)OC)C=C1 | C23H19Cl2NO4
